US06340682B1
To a solution of 39 mg (0.093 mmol) of 8-benzyl-2,5-bis-tert-butoxycarbonyl-2,5,8-triazabicyclo-[4,3,0]nonane synthesized by the above process in methanol (1.5 ml) were added 40 mg (0.63 mmol) of ammonium formate and 40 mg of 10% palladium on carbon. The mixture was stirred for 1 hour at 70° C. under nitrogen, and the catalyst was removed from the reaction mixture by suction filtration through Celite. The filtrate was concentrated under reduced pressure, and the resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 29 mg (yield: 95%) of 2,5-bis-tert-butoxycarbonyl-2,5,8-triazabicyclo[4,3,0]nonane as a colorless oil.

reactant | 8-benzyl-2,5-bis-tert-butoxycarbonyl-2,5,8-triazabicyclo-[4,3,0]nonane | 0.093 mmol, 39 mg | C(C1=CC=CC=C1)N1CC2N(CCN(C2C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C23H35N3O4
reactant | ammonium formate | 0.63 mmol, 40 mg | C(=O)[O-].[NH4+]
solvent | methanol | 1.5 ml | CO | CH4O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
product | 2,5-bis-tert-butoxycarbonyl-2,5,8-triazabicyclo[4,3,0]nonane | 29 mg, yield: 95% | C(C)(C)(C)OC(=O)N1C2CNCC2N(CC1)C(=O)OC(C)(C)C | C16H29N3O4
